US06599902B2
Synthesis of 5-[5-(2,6-Dimethyl-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid
5-[(2,6-Dimethylbenzyl)sulfonyl]-1,3-dihydro-indol-2-one (315 mg, 1 mmol) was condensed with 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (170 mg, 1 mmol) to give the titled compound as an orange-brown solid.

reactant | 5-[(2,6-Dimethylbenzyl)sulfonyl]-1,3-dihydro-indol-2-one | 1 mmol, 315 mg | CC1=C(CS(=O)(=O)C=2C=C3CC(NC3=CC2)=O)C(=CC=C1)C | C17H17NO3S
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 1 mmol, 170 mg | C(=O)C1=C(C(=C(N1)C)C(=O)O)C | C8H9NO3
product | 5-[5-(2,6-Dimethyl-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | CC1=C(C(=CC=C1)C)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)O)C | C25H24N2O5S
